US07326731B2
Step b) Add acetyl chloride (9.28 g, 118 mmol) to a mixture of triethylamine (16.0 g, 158 mmol) and 4-fluorobenzylamine (9.90 g, 78.8 mmol) in 200 mL of ethyl acetate at 0° C. and stir for 12 hours. Add 100 mL of water to the mixture. Extract aqueous layer with ethyl acetate (3×100 mL). Combine organic layers and wash with brine then dry over anhydrous Na2SO4 Remove solvent under reduced pressure to give N-(4-fluorobenzyl)acetamide (13.5 gm) in 100% yield as a yellow oil. Add NaH (6.5 g, 162 mmol) to N-(4-fluorobenzyl)-acetamide (13.5 g, 80.8 mmol) in 200 mL of tetrahydrofuran at 0° C. and stir for 4 hours. Then add methyl iodide (22.9 g, 161.6 mmol) to the above mixture and stir for 12 hours. Pour mixture into 200 mL of water. Extract aqueous layer with methylene chloride (3×200 mL). Combine organic layers and wash with brine then dry over anhydrous Na2SO4. Remove solvent under reduced pressure. Purify the residue by column chromatography (silica gel, 5% acetone in hexanes, 50% acetone in hexanes) to give N-(4-fluorobenzyl)-N-methylacetamide (9.1 gm) in 64% yield as a yellow oil. Add Lawesson reagent (20.3 g, 50.3 mmol) to N-(4-fluorobenzyl)-N-methylacetamide (9.1 g, 50.3 mmol) in 200 mL of toluene and heat to 100° C. for three hours. Remove solvent under reduced pressure. Purify the residue with a column chromatography (silica gel, 2% methylene chloride in hexanes, 100% methylene chloride) to give N-(4-fluorobenzyl)-N-methylthioacetamide (5.6 g) 56.5% as a yellow solid: MS 198 (MH+).

reactant | Lawesson reagent | 50.3 mmol, 20.3 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | N-(4-fluorobenzyl)-N-methylacetamide | 50.3 mmol, 9.1 g | FC1=CC=C(CN(C(C)=O)C)C=C1 | C10H12FNO
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-fluorobenzyl)-N-methylthioacetamide | 5.6 g, 56.5% | FC1=CC=C(CN(C(C)=S)C)C=C1 | C10H12FNS
